US09302991B2
<Step-2>: 3-isobutyramido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide (Example-231, single enantiomer)
The title compound is prepared in 52% yield (15 mg) from 3-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide (24 mg, 0.071 mmol, Step-1, single enantiomer) and isobutyryl chloride (23 mg, 0.21 mmol) by the similar manner in Step-2 of Example-8.

reactant | 3-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide | 0.071 mmol, 24 mg | NC=1C(=NC=CC1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C15H15F3N4O2
reactant | isobutyryl chloride | 0.21 mmol, 23 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | 3-isobutyramido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)picolinamide | 52% yield | C(C(C)C)(=O)NC=1C(=NC=CC1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F | C19H21F3N4O3
